US05910605
3-Benzyloxy-2-methylbenzoic acid
232.7 g of 2-benzyloxy-6-chlorotoluene (232.7 g, 1.0 mol) are subjected to a Grignard reaction with 26.7 g (1.1 mol) of magnesium turnings in 550 ml of THF. The brown-black solution of (3-benzyloxy-2-methylphenyl)magnesium chloride in THF formed therefrom is stirred until cold by means of an ice bath at 0° C. CO2 gas is passed into the stirred reaction mixture slowly such that the temperature does not exceed 10° C. The solid suspension in THF formed therefrom is hydrolyzed with cooling by slow addition of 50 ml of water and 445 g (1.2 mol) of hydrochloric acid (10% strength). The hydrolyzed reaction mixture is diluted with 430 g of xylene. The phases are separated and the organic phase is washed with 100 g of water. The product-containing organic phase separated off is distilled until the bottom is free of THF. The bottom is then stirred at 0° C. until cold. The crystallized product is filtered off and washed with 50 ml of xylene. After drying in vacuo, 152.3 g of 3-benzyloxy-2-methylbenzoic acid are obtained. This corresponds to a yield of 62.9% of theory.

reactant | CO2 | C(=O)=O | CO2
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | 1.2 mol, 445 g | Cl | ClH
reactant | xylene | 430 g | C=1(C(=CC=CC1)C)C | C8H10
solvent | THF | C1CCOC1 | C4H8O
product | 3-Benzyloxy-2-methylbenzoic acid | C(C1=CC=CC=C1)OC=1C(=C(C(=O)O)C=CC1)C | C15H14O3
